US09447073B2
Preparation of 4-((6-bromopyridin-3-yl)oxy)benzonitrile (C1)
To a solution of 6-bromopyridin-3-ol (10 g, 57.80 mmol) in DMF (60 mL) was added 4-fluorobenzonitrile (6.99 g, 57.8 mmol) and K2CO3 (11.9 g, 86.70 mmol) and the reaction mixture was stirred at 80° C. for 16 hours (h). The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was dried over sodium sulphate and concentrated. The crude product was purified by column chromatography (silica gel, 100-200 mesh) to obtain the title compound as an off-white solid (10 g, 63%): mp 113° C.; 1H NMR (400 MHz, CDCl3) δ 8.22 (d, J=2.9 Hz, 1H), 7.70-7.63 (m, 2H), 7.56-7.51 (m, 1H), 7.28 (dd, J=8.5, 2.9 Hz, 1H), 7.10-7.02 (m, 2H); EIMS m/z 275.

reactant | 6-bromopyridin-3-ol | 57.80 mmol, 10 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | 4-fluorobenzonitrile | 57.8 mmol, 6.99 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | K2CO3 | 86.70 mmol, 11.9 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-((6-bromopyridin-3-yl)oxy)benzonitrile | 10 g, 63% | BrC1=CC=C(C=N1)OC1=CC=C(C#N)C=C1 | C12H7BrN2O
